US06734183B2
(ii) 1-{[4-(4-chlorophenyl)piperazin-1-yl]sulfonyl}-4-(5-chloropyridin-3-yl)butan-2-one
To a stirred solution of 1-(4-chlorophenyl)-4-(methylsulfonyl)piperazine (235 mg, 0.85 mmol) in dry THF (7.5 mL) at −10° C. under an argon atmosphere was added dropwise over 4 minutes a solution of LiHMDS (1.71 mL of a 1.0 M solution in THF, 1.71 mmol). The solution was then stirred at this temperature for 40 minutes. A solution of ethyl 3-(5-chloropyridin-3-yl)propanoate (201 mg, 0.94 mmol) in THF (1 mL) was then added dropwise via cannula over a period of 5 minutes. The reaction was stirred at −10° C. for an additional 30 minutes before being quenched with saturated aqueous ammonium chloride solution (5 mL). Volatiles were removed in vacuo, and the residue was extracted with CH2Cl2 (3×5 mL). The combined organic extracts were washed with water (10 mL) and brine (10 mL) before being dried, (MgSO4), filtered and concentrated in vacuo. Flash chromatography (silica gel, 50% ethyl acetate in hexane) gave the title compound (228 mg, 0.52 mmol) and recovered ethyl 3-(5-chloropyridin-3-yl)propanoate (74 mg, 0.35 mmol).

reactant | 1-(4-chlorophenyl)-4-(methylsulfonyl)piperazine | 0.85 mmol, 235 mg | ClC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C | C11H15ClN2O2S
reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | ethyl 3-(5-chloropyridin-3-yl)propanoate | 0.94 mmol, 201 mg | ClC=1C=C(C=NC1)CCC(=O)OCC | C10H12ClNO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 7.5 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1-{[4-(4-chlorophenyl)piperazin-1-yl]sulfonyl}-4-(5-chloropyridin-3-yl)butan-2-one | 0.52 mmol, 228 mg | ClC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)CC(CCC=1C=NC=C(C1)Cl)=O | C19H21Cl2N3O3S
